US06599917B1
c) 3-(α-Hydroxybenzyl)-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene
A mixture of 21.5 g of 2-amino-3-benzoyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene, 12.5 g of cuprous iodide, 26.3 ml of diiodomethane, 26.3 ml of isopentyl nitrite and 250 ml of tetrahydrofuran was heated under reflux for 1.5 hours. After cooling as it was, 500 ml of ethyl acetate was added to the reaction solution. The insoluble matters were filtered off, the mixture was subjected to silica gel column chromatography, and eluted with hexane and then with hexane/ethyl acetate (10:1), to give 17.4 g of a crude product. 1.5 g of sodium borohydride was added little by little to a solution of 200 ml of ethanol containing 17.4 g of this crude product under ice-cooling. After stirring at room temperature for one hour, the solvent was removed. Ethyl acetate and water were added to the residue, followed by extracting with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to silica gel column chromatography, and eluted with hexane and then with hexane/ethyl acetate (4:1), to give 11.2 g of the target compound.

reactant | 2-amino-3-benzoyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 21.5 g | NC1=C(C2=C(S1)CC(CC2)C(=O)OCC)C(C2=CC=CC=C2)=O | C18H19NO3S
reactant | diiodomethane | 26.3 ml | ICI | CH2I2
reactant | isopentyl nitrite | 26.3 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | ethanol | 200 ml, 17.4 g | C(C)O | C2H6O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-(α-Hydroxybenzyl)-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 11.2 g | OC(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)C(=O)OCC | C18H20O3S
